### PR TITLE
[Merged by Bors] - feat(Topology): Define `PerfectSpace`

### PR DESCRIPTION
**Pull request by adri326**
Introduces a new class, `PerfectSpace`, which requires that `Set.univ` is a perfect set. This is equivalent to say that no points are isolated (`perfectSpace_iff_forall_not_isolated`).

---

This PR is part of my effort to formalize Rubin's theorem into Mathlib.
See https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Defining.20perfect.20spaces for the zulip discussion on this subject.

- [ ] depends on: #10272

This PR has been stripped down to only the changes that I critically need to progress in my formalization of Rubin's theorem, since I want to keep the PR chain for it as small as possible.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Ruben-VandeVelde** [comment]
I would recommend making a preliminary PR to do just the file split (+ import updates) and no other changes. This should make it easier to review the rest of your changes

**Comment by adri326** [comment]
Quick rebase and commit cleanup :)

File: Mathlib/Topology/Perfect.lean [hunk 1]
```diff
@@ -52,7 +53,8 @@ accumulation point, perfect set, cantor-bendixson.
 
 open Topology Filter
 
-open TopologicalSpace Filter Set
+open Filter Set
+open TopologicalSpace (IsTopologicalBasis)
```
Comment (loefflerd) [inline Mathlib/Topology/Perfect.lean:57]: Looks like `Filter` is open twice, all these lines can be replaced with just `open Topology Filter Set TopologicalSpace`

File: Mathlib/Topology/Perfect.lean [hunk 2]
```diff
@@ -88,6 +90,19 @@ theorem preperfect_iff_nhds : Preperfect C ↔ ∀ x ∈ C, ∀ U ∈ 𝓝 x, 
...
+-/
+class PerfectSpace (X : Type*) [TopologicalSpace X]: Prop :=
+  univ_perfect' : Perfect (Set.univ : Set X)
+
+variable [PerfectSpace α] in
+variable (α) in
+theorem PerfectSpace.univ_perfect : Perfect (Set.univ : Set α) := PerfectSpace.univ_perfect'
+
+section Preperfect
+
```
Comment (loefflerd) [inline Mathlib/Topology/Perfect.lean:105]:
```suggestion
section PerfectSpace

variable (α)

/--
A topological space `X` is said to be perfect if its universe is a perfect set.
Equivalently, this means that `𝓝[≠] x ≠ ⊥` for every point `x : X`.
-/
class PerfectSpace : Prop :=
  univ_perfect' : Perfect (Set.univ : Set α)

theorem PerfectSpace.univ_perfect [PerfectSpace α] : Perfect (Set.univ : Set α) :=
  PerfectSpace.univ_perfect'

end PerfectSpace

section Preperfect
```
The `variable X in` usage should probably be avoided if possible.

File: Mathlib/Topology/Perfect.lean [hunk 3]
```diff
@@ -215,3 +232,19 @@ theorem exists_perfect_nonempty_of_isClosed_of_not_countable [SecondCountableTop
...
+variable [PerfectSpace X] in
+instance PerfectSpace.not_isolated (x : X): Filter.NeBot (𝓝[≠] x) := by
+  have := (PerfectSpace.univ_perfect X).acc _ (Set.mem_univ x)
+  rwa [AccPt, Filter.principal_univ, inf_top_eq] at this
+
+theorem perfectSpace_iff_forall_not_isolated : PerfectSpace X ↔ ∀ x : X, Filter.NeBot (𝓝[≠] x) :=
+  ⟨fun perfect x => perfect.not_isolated x, fun h_forall => ⟨⟨isClosed_univ, fun x _ => by
+    rw [AccPt, Filter.principal_univ, inf_top_eq]
+    exact h_forall x⟩⟩⟩
```
Comment (loefflerd) [inline Mathlib/Topology/Perfect.lean:248]:
```suggestion
instance PerfectSpace.not_isolated [PerfectSpace X] (x : X) : Filter.NeBot (𝓝[≠] x) := by
  simpa [AccPt] using (PerfectSpace.univ_perfect X).acc _ (Set.mem_univ x)

theorem perfectSpace_iff_forall_not_isolated : PerfectSpace X ↔ ∀ x : X, Filter.NeBot (𝓝[≠] x) :=
  ⟨@PerfectSpace.not_isolated _ _,
    fun h_forall ↦ ⟨⟨isClosed_univ, fun _ _ ↦ by simpa [AccPt] using h_forall _⟩⟩⟩
```

**Review by loefflerd — APPROVED** [review]
Looks good to me generally. I suggested a few minor cleanups. Maybe you can merge these + then ask on zulip for a maintainer to take a look

**Comment by loefflerd** [comment]
Thanks!

maintainer merge

File: Mathlib/Topology/Perfect.lean [hunk 4]
```diff
@@ -88,6 +87,24 @@ theorem preperfect_iff_nhds : Preperfect C ↔ ∀ x ∈ C, ∀ U ∈ 𝓝 x, 
...
+section PerfectSpace
+
+variable (α)
+
+/--
+A topological space `X` is said to be perfect if its universe is a perfect set.
+Equivalently, this means that `𝓝[≠] x ≠ ⊥` for every point `x : X`.
+-/
+class PerfectSpace: Prop :=
+  univ_perfect' : Perfect (Set.univ : Set α)
```
Comment (ADedecker) [inline Mathlib/Topology/Perfect.lean:99]: What about using `Preperfect` here, since the closedness condition is redundant?

File: Mathlib/Topology/Perfect.lean [hunk 5]
```diff
@@ -215,3 +234,18 @@ theorem exists_perfect_nonempty_of_isClosed_of_not_countable [SecondCountableTop
...
+variable {X : Type*} [TopologicalSpace X]
+
+instance PerfectSpace.not_isolated [PerfectSpace X] (x : X) : Filter.NeBot (𝓝[≠] x) := by
+  have := (PerfectSpace.univ_perfect X).acc _ (Set.mem_univ x)
+  rwa [AccPt, Filter.principal_univ, inf_top_eq] at this
+
+theorem perfectSpace_iff_forall_not_isolated : PerfectSpace X ↔ ∀ x : X, Filter.NeBot (𝓝[≠] x) :=
+  ⟨fun perfect x => perfect.not_isolated x, fun h_forall => ⟨⟨isClosed_univ, fun x _ => by
+    rw [AccPt, Filter.principal_univ, inf_top_eq]
+    exact h_forall x⟩⟩⟩
```
Comment (ADedecker) [inline Mathlib/Topology/Perfect.lean:249]: If you add `@[mk_iff perfect_def]` above the definition of `Perfect` (you can see the generated lemma by hovering over its name), you can do:
```suggestion
theorem perfectSpace_iff_forall_not_isolated : 
    PerfectSpace X ↔ ∀ x : X, Filter.NeBot (𝓝[≠] x) := by
  simp [perfectSpace_def, perfect_def, Preperfect, AccPt]

instance PerfectSpace.not_isolated [PerfectSpace X] (x : X) : Filter.NeBot (𝓝[≠] x) := 
  perfectSpace_iff_forall_not_isolated.mp ‹_› x
```
Note that we don't need `preperfect_def` because `Preperfect` is a def so you can just rewrite through it.

File: Mathlib/Topology/Perfect.lean [hunk 6]
```diff
@@ -88,6 +87,24 @@ theorem preperfect_iff_nhds : Preperfect C ↔ ∀ x ∈ C, ∀ U ∈ 𝓝 x, 
...
 
+section PerfectSpace
+
+variable (α)
+
+/--
+A topological space `X` is said to be perfect if its universe is a perfect set.
+Equivalently, this means that `𝓝[≠] x ≠ ⊥` for every point `x : X`.
+-/
+class PerfectSpace: Prop :=
```
[the remark this answers is not in the document]
Comment (adri326) [reply Mathlib/Topology/Perfect.lean:100]: That's good to know

**Comment by ADedecker** [comment]
Thanks!

bors merge
